US04906634
N,N-Diethyl-N'-(4-nitrophenyl)-1,2-ethanediamine hydrochloride
To 8.3 g (71 mmol) of N,N-diethylethylenediamine under nitrogen atmosphere add 6.6 g (47 mmol) of 4-fluoronitrobenzene. Stir the mixture at ambient temperature for 1 day and heat at 45° C. for 4 h. Upon completion of the reaction add 100 mL of CH2Cl2 and 100 mL 1M HCl. Separate the layers and add 50% sodium hydroxide to the aqueous layer until it is basic. Extract the aqueous layer with 2×100 mL CH2Cl2, dry the organics over anhydrous Na2SO4. Remove drying agent by filtration and remove solvent in vacuo. Dissolve the residue in methanolic HCl and remove the solvent in vacuo. Recrystallize the solid from EtOH to afford the title compound.

reactant | N,N-diethylethylenediamine | 71 mmol, 8.3 g | C(C)N(CCN)CC | C6H16N2
reactant | 4-fluoronitrobenzene | 47 mmol, 6.6 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | HCl | 1M, 100 mL | Cl | ClH
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | N,N-Diethyl-N'-(4-nitrophenyl)-1,2-ethanediamine hydrochloride | Cl.C(C)N(CCNC1=CC=C(C=C1)[N+](=O)[O-])CC | InChI=1S/C12H19N3O2.ClH/c1-3-14(4-2)10-9-13-11-5-7-12(8-6-11)15(16)17;/h5-8,13H,3-4,9-10H2,1-2H3;1H
